US07186729B2
Step 2: 1-(4-Chloro-phenyl)-2-methyl-piperazine
4-(4-Chloro-phenyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (0.83 g, 0.68 mmol) was dissolved in HCl/dioxane (4M, 8 mL) and stirred for 2 hr at rt. The mixture was then evaporated in vacuo, basified with aqueous sodium hydroxide (1M, 50 mL), and extracted with ethyl acetate (3×100 mL). The organic layers were evaporated and the crude residue used in the next step, (0.56 g, brown oil).

reactant | 4-(4-Chloro-phenyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.68 mmol, 0.83 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)Cl)C | C16H23ClN2O2
solvent | HCl dioxane | 4M, 8 mL | Cl.O1CCOCC1
product | 1-(4-Chloro-phenyl)-2-methyl-piperazine | ClC1=CC=C(C=C1)N1C(CNCC1)C | C11H15ClN2
